US09353107B2
Step-ii: N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl) methane sulfonamide (53 mg, 0.0799 mmol) was hydrolyzed by lithium hydroxide (17 mg, 0.399 mmol) in THF/methanol/water (2/2/1 ml) to yield 20 mg of the titled compound. 1H NMR (DMSO-d6, 300 MHz): δ 11.8 (s, 1H), 9.00 (s, 1H), 8.538-8.530 (d, 1H), 8.45-8.44 (d, 1H), 7.89-7.88 (d, 2H), 7.55-7.54 (d, 1H), 7.50-7.46 (dd, 1H), 7.19-7.15 (m, 2H), 7.00-6.98 (m, 2H), 6.699-6.692 (d, 1H), 5.40 (s, 2H), 3.86 (s, 3H), 2.97 (s, 3H). MS: m/z=510.1 (M+1), HPLC: 96.47% in method B.

reactant | N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl) methane sulfonamide | 0.0799 mmol, 53 mg | FC=1C=C(CN2N=C(C=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C32H27F2N5O5S2
reactant | lithium hydroxide | 0.399 mmol, 17 mg | [OH-].[Li+]
solvent | THF methanol water | 1 ml | C1CCOC1.CO.O
product | N-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)methanesulfonamide | 20 mg | FC=1C=C(CN2N=C(C=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)C=C(C1)F | C25H21F2N5O3S
